US04341712
1-Azido-2,2-bis(difluoramino)-3-fluorodinitroethoxypropane (ADFP)
A mixture of 1.7 g of 1-chloro-2,2-bis(difluoramino)-3-fluorodinitroethoxypropane, 0.7 g of sodium azide, 10 ml of acetone, and 5 ml of water was refluxed for 72 hours. The mixture was extracted with methylene chloride, washed with water, and concentrated to give 1.3 g of light yellow liquid. I.R. showed an absorption for azide at 4.7μ.

reactant | 1-chloro-2,2-bis(difluoramino)-3-fluorodinitroethoxypropane | 1.7 g | ClC(C(CF)(N(F)F)N(F)F)OCC([N+](=O)[O-])[N+](=O)[O-] | C5H6ClF5N4O5
reactant | sodium azide | 0.7 g | [N-]=[N+]=[N-].[Na+]
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 1-Azido-2,2-bis(difluoramino)-3-fluorodinitroethoxypropane | N(=[N+]=[N-])C(C(CF)(N(F)F)N(F)F)OCC([N+](=O)[O-])[N+](=O)[O-] | C5H6F5N7O5
